US07935828B2
Thiophene (67.4 g, 0.801 mol) and THF (200 ml) were placed in a 1000-ml three-necked flask equipped with a 200-ml dropping funnel and a reflux tube. The solution was cooled to −78° C., and a solution (200 ml) of n-butyllithium (2.6 M) in n-hexane was added dropwise to the cooled solution over a period of about one hr. After the completion of the dropwise addition, the mixture was stirred at −78° C. for about one hr. Thereafter, the reaction temperature was raised to room temperature. At that temperature, the mixture was again stirred for one hr, and 1-bromodecane (118.0 g, 0.534 mol) was added dropwise thereto at 0° C. over a period of about one hr. After the completion of the dropwise addition, the reaction temperature was raised to room temperature, and, at that temperature, the mixture was stirred overnight. After the completion of the reaction, water (200 ml) was added, and the organic layer was extracted with diethyl ether, was dried over sodium sulfate, and was applied to column chromatography (n-hexane) to give an objective compound 2-decylthiophene as a yellow liquid (112.8 g, yield 96.60%). An NMR spectrum of the compound thus obtained was measured at room temperature with an NMR spectrometer (model JNM-LA400W, manufactured by Japan Electric Optical Laboratory). 1H-NMR (CDCl3, TMS/ppm): 0.88 (t, 3H, J=6.83 Hz), 1.29 (m, 14H), 1.67 (m, 2H), 2.81 (t, 2H, J=7.32 Hz), 6.76 (d, 1H, J=3.91 Hz). 6.90 (dd, 1H, J=3.91 Hz, J=4.88 Hz), 7.09 (d, 1H, J=4.88 Hz.

reactant | Thiophene | 0.801 mol, 67.4 g | S1C=CC=C1 | C4H4S
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | n-butyllithium | 2.6 M, 200 ml | C(CCC)[Li]
reactant | 1-bromodecane | 0.534 mol, 118.0 g | BrCCCCCCCCCC | C10H21Br
solvent | n-hexane | CCCCCC | C6H14
solvent | water | 200 ml | O | H2O
product | 2-decylthiophene | 112.8 g, yield 96.60% | C(CCCCCCCCC)C=1SC=CC1 | C14H24S
